* source CHEBYSHEVLPF
L_L1         VIN VOUT  1uH  
C_C1         0 VIN  470p  TC=0,0 
C_C2         0 VOUT  470p  TC=0,0 
V_V1         VIN 0 DC 0Vdc AC 1Vac 
